US03952114
1,3-Dimethyl-2-phenylimidazolidine.
Using the method of Birch and Dastur, Austral. J. Chem., 26, 1364 (1973), a solution of 5.5 g of benzaldehyde in 25 ml of benzene was added dropwise to a stirred solution of sym-dimethylethylenediamine in 15 ml of benzene, and heated at 60° for 2 hrs. Evaporation and distillation at 55° (0.35 mm) afforded 6.4 g, identified by nmr.

reactant | benzaldehyde | 5.5 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sym-dimethylethylenediamine | CNCCNC | C4H12N2
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 1,3-Dimethyl-2-phenylimidazolidine | CN1C(N(CC1)C)C1=CC=CC=C1 | C11H16N2
